US05488055
A mixture of N-(1-ethyl-3-methylpyrazol-5-yl) anthranilic acid (7.0 g), 28.57 mmol) and POCl3 (210 ml) was refluxed for 24 hours. The reaction mixture was cooled to room temperature, poured into ice-water and neutralized with concentrated NH4OH to a pH of 8.0. The product which slowly crystallized from the solution was collected by filtration, washed with water and dried to afford 6.7 g (95%) of 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-ethyl-3-methylpyrazol-5-yl) anthranilic acid | 7.0 g | C(C)N1N=C(C=C1NC=1C(C(=O)O)=CC=CC1)C | C13H15N3O2
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 210 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]quinoline | 6.7 g, 95% | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)CC | C13H12ClN3
